US03957757
A mixture of 24.5 gm of 9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane in a liter of m-xylene and 125 gm of phosphoric acid anhydride was heated at reflux for 3 hours and after cooling, the reaction mixture was poured over ice. The mixture was stirred for 15 minutes and was made alkaline by the addition of sodium hydroxide. The mixture was extracted with ethyl acetate and the ethyl acetate was washed with water, dried over magnesium sulfate and distilled to dryness in vacuo. The residue was dissolved in ether and the solution was filtered and concentrated to a small volume and pentane was added while distilling off the ether. After filtering, the filtrate was concentrated to about 100 cc and crystallization was started with icing for one hour. After filtering, the precipitate was washed with water and dried in vacuo to obtain 16 gm (70% yield) of 5-methyl-10-(β-dimethylaminoethyl)-dibenzo (b,f) azepine melting at 78°C.

reactant | 9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane | 24.5 gm | OCC1(C2=CC=CC=C2N(C=2C=CC=CC12)C)CCN(C)C | C19H24N2O
reactant | phosphoric acid anhydride | 125 gm | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | m-xylene | a liter | C1(=CC(=CC=C1)C)C | C8H10
product | 5-methyl-10-(β-dimethylaminoethyl)-dibenzo (b,f) azepine | 16 gm, 70% yield | CN1C2=C(C=C(C3=C1C=CC=C3)CCN(C)C)C=CC=C2 | C19H22N2
